US05616664
A 2 L batch reactor is charged with 500 mL of mixed alkanes, 75 mL of 5-ethylidene-1-norbornene, and 500 mL of liquefied propylene. The reactor is heated to 60° C., and is saturated with ethylene at 500 psig (3.4 MPa). In an inert atmosphere drybox, 10 μmol of a 0.005M solution in toluene of rac-[1,2-ethanediylbis(1-(2-methyl-4-phenyl)indenyl)]zirconium (trans,trans-1,4-diphenyl-1,3-butadiene and 10 μmol of a 0.005 m solution of B(C6F5)3 in toluene are combined and the mixture is transferred to the reactor to initiate polymerization. After 15 minutes, the reactor is vented and the solution is drained from the reactor. The polymer solution is combined with 100 mg of antioxidant and the volatiles are removed under reduced pressure in order to isolate the rubbery terpolymer of ethylene/propylene/ethylidene norbornene.

reactant | 5-ethylidene-1-norbornene | 75 mL | C(C)=C1C2CC=C(C1)C2 | C9H12
reactant | propylene | 500 mL | C=CC | C3H6
reactant | ethylene | C=C | C2H4
reactant | trans,trans-1,4-diphenyl-1,3-butadiene | C1(=CC=CC=C1)\C=C\C=C\C1=CC=CC=C1 | C16H14
reactant | B(C6F5)3 | B(C1=C(F)C(F)=C(F)C(F)=C1F)(C1=C(F)C(F)=C(F)C(F)=C1F)C1=C(F)C(F)=C(F)C(F)=C1F | C18BF15
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | ethylene/propylene ethylidene norbornene | C=C.C=CC.C(C)=C1C2C=CC(C1)C2 | InChI=1S/C9H12.C3H6.C2H4/c1-2-8-5-7-3-4-9(8)6-7;1-3-2;1-2/h2-4,7,9H,5-6H2,1H3;3H,1H2,2H3;1-2H2
